US05136868
In the manner of Example 2, Step E, the reaction of 3.2 g (0.016 mole) of 2-chloro-4-fluoro-5-methoxyphenyl isocyanate with 3.2 g (0.028 mole) of trimethylsilyl azide produced 3.0 g of 1-(2-chloro-4-fluoro-5-methoxyphenyl)-1,4-dihydro-5H-tetrazol-5-one.

reactant | 2-chloro-4-fluoro-5-methoxyphenyl isocyanate | 0.016 mole, 3.2 g | ClC1=C(C=C(C(=C1)F)OC)N=C=O | C8H5ClFNO2
reactant | trimethylsilyl azide | 0.028 mole, 3.2 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
product | 1-(2-chloro-4-fluoro-5-methoxyphenyl)-1,4-dihydro-5H-tetrazol-5-one | 3.0 g | ClC1=C(C=C(C(=C1)F)OC)N1N=NNC1=O | C8H6ClFN4O2
